data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-CC_2-C(F)(F)F_3-C_4-c1ccccc1_5-C(F)(F)F_6-CC_7-C(F)(F)F","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(c1ccccc1)C(F)(F)F)(C)C(CC)(C(F)(F)F)[Si](C)(C)C","C(=O)(CC)C(F)(F)F","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(c1ccccc1)C(F)(F)F)(C)C(CC)(C(F)(F)F)C(O)(CC)C(F)(F)F"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(CC)C(F)(F)F","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(CC)(C(F)(F)F)[C+](C)C(c1ccccc1)(C(F)(F)F)C(O[Ti](Cl)(Cl)Cl)(CC)C(F)(F)F","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccccc1)C(F)(F)F)(C)C(CC)(C(F)(F)F)C(O[Ti](Cl)(Cl)Cl)(CC)C(F)(F)F","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(c1ccccc1)C(F)(F)F)(C)C(CC)(C(F)(F)F)C(O)(CC)C(F)(F)F","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-127_1-CCCC(C)C_2-CC_3-C","name": "Krapcho Decarboxylation","level": "medium","reactants_smiles": ["C(CCCC(C)C)(CC)(C)C(=O)OC"],"products_smiles": ["C(CCCC(C)C)(CC)(C)"],"conditions": "[Li+].[Cl-]","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CCCC(C)C)(CC)(C)C(=O)[O-]","rationale": "Chloride, a good nucleophile in polar aprotic media, attacks the methyl ester, displacing methoxide due to its good leaving group ability and forming a stabilized carboxylate."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C-](CCCC(C)C)(CC)(C)","rationale": "The carboxylate undergoes heterolytic C–C bond cleavage, driven by CO2 release, as the resulting carbanion is stabilized by adjacent substituents and entropy gain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)(CC)(C)","rationale": "The carbanion abstracts a proton from the medium, as protonation yields the neutral alkane, which is thermodynamically more stable than the charged species."}],"description": "Under LiCl conditions, chloride acts as a nucleophile to displace the methyl ester group, generating a carboxylate. The carboxylate undergoes decarboxylation due to the instability of the intermediate, yielding the alkane after protonation."}
